US06664258B1
2,4-Difluorobenzonitrile (5.00 g, 35.94 mmol), tert-butyl-1-piperazinecarboxylate (6.69 g, 35.92 mmol) and potassium carbonate (10.0 g, 72.4 mmol) were combined in dimethylsulfoxide (40 mL) and stirred at 150° C. overnight. The reaction mixture was cooled to ambient temperature, poured into water (150 mL) and extracted into ethyl acetate (150 mL). The extract was washed twice with water and once with brine, dried over magnesium sulfate and concentrated. The residue was purified by flash chromatography (2″×5″ silica gel). The column was flushed with 500 mL each 10% and 20% ethyl acetate/hexane and the product removed with an additional 500 mL of 20% ethyl acetate/hexane. Concentration gave 4-(4-cyano-3-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester as a white solid (3.28 g, 30%) which had mp 130.5-131.0° C.

reactant | 2,4-Difluorobenzonitrile | 35.94 mmol, 5.00 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | tert-butyl-1-piperazinecarboxylate | 35.92 mmol, 6.69 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 72.4 mmol, 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 mL | O | H2O
solvent | dimethylsulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 4-(4-cyano-3-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 3.28 g, 30% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)C#N)F | C16H20FN3O2
